US04594341
N-t-Butoxycarbonyl-S-(2-aminoethyl)-L-cysteine
N-t-Butoxycarbonyl-S-(2-carbobenzoxyaminoethyl)-L-cysteine (9.9 g) in 500 ml of liquid ammonia is treated with sodium metal until reaction is complete, as indicated by the persistence of a blue color. Ammonium chloride (1 g) is added, followed by ethanol (50 ml). Excess ammonia is let evaporate away. The residue is dissolved in a minimal amount of water, and extracted with ether. The aqueous layer is again taken to dryness, and the residue extracted with ethanol containing 6 ml of ammonium hydroxide. Upon removal of the ethanol the residue obtained is redissolved in 15 ml of water, and passed through 10 ml of Dowex-50 resin on the ammonium cycle. The resin is washed with 30 ml of water. The product (5.0 g) is obtained upon lyophilization of the eluent. The NMR spectrum (in D2O and NaOD) of such a sample shows a multiplet at 4.1, complex absorption between 2.6 and 3.0, and a singlet at 1.4.

reactant | N-t-Butoxycarbonyl-S-(2-carbobenzoxyaminoethyl)-L-cysteine | 9.9 g | C(C)(C)(C)OC(=O)N[C@@H](CSCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C18H26N2O6S
reactant | ammonia | N | H3N
reactant | sodium | [Na] | Na
reactant | Ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | ammonium | [NH4+]
solvent | water | 15 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-t-Butoxycarbonyl-S-(2-aminoethyl)-L-cysteine | 5.0 g | C(C)(C)(C)OC(=O)N[C@@H](CSCCN)C(=O)O | C10H20N2O4S
